US06043360
Alternate Synthesis of 2-(4-Methoxyphenyl)-6-Methoxybenzothiophene
Anisoin (2.87 g), 50 ml of chlorobenzene, and Lawesson's Reagent 4.04 g are placed in a flask under nitrogen. The mixture is heated to 100° C. and a methanesulfonic acid (0.65 mL) is added and the mixture heated at reflux for 92 hours. The reaction is cooled to room temperature before filtering the solids which form. The filter cake is washed with 25 ml of chlorobenzene and dried to give 270 mg of product. The solid is recrystallized from hot chlorobenzene to give 90 mgs of pure product. Analysis calculated for C16H14O4S: C, 71.08; H, 5.22; S, 11.86. Found: C, 71.27; H, 5.43; S, 11.78. MS.

reactant | Anisoin | 2.87 g | C1(=CC=C(OC)C=C1)C(=O)C(O)C1=CC=C(OC)C=C1 | C16H16O4
reactant | Lawesson's Reagent | 4.04 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | methanesulfonic acid | 0.65 mL | CS(=O)(=O)O | CH4O3S
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(4-Methoxyphenyl)-6-Methoxybenzothiophene | 270 mg | COC1=CC=C(C=C1)C=1SC2=C(C1)C=CC(=C2)OC | C16H14O2S
